US07897766B2
5-(Thiophen-2-yl)-1H-pyrazole-3-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 3-(2-thienyl)-1H-pyrazole-5-carboxylic acid (Specs) according to methods A and C; yield 34 mg, 0.08 mmol (33%): 1H NMR (300 MHz, methanol-d4) δ 2.09-2.29 (m, 6H), 2.45 (s, 2H), 3.49 (d, J=13 Hz, 2H), 3.56 (s, 2H), 3.83 (d, J=13 Hz, 2H), 4.29 (s, 1H), 7.02 (s, 1H), 7.12 (dd, J=5, 4 Hz, 1H), 7.43 (dd, J=4, 1 Hz, 1H), 7.48 (dd, J=5, 1 Hz, 1H); MS (DCI/NH3) m/z 329 (M+H)+; Anal. C17H20N4OS.2HCl.0.15H2O.0.05C4H8O2: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 3-(2-thienyl)-1H-pyrazole-5-carboxylic acid | S1C(=CC=C1)C1=NNC(=C1)C(=O)O | C8H6N2O2S
reactant | NH3 | N | H3N
product | 5-(Thiophen-2-yl)-1H-pyrazole-3-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride | Cl.Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C2=NNC(=C2)C=2SC=CC2 | InChI=1S/C17H20N4OS.2ClH/c22-17(14-6-13(19-20-14)15-2-1-3-23-15)18-16-11-4-10-5-12(16)9-21(7-10)8-11;;/h1-3,6,10-12,16H,4-5,7-9H2,(H,18,22)(H,19,20);2*1H/t10?,11?,12?,16-;;
